US05053509
Working under the conditions of Example 16, but starting with 1-ethyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid (1.5 g) and (RS)-2-(3-fluorophenyl)piperazine (1.98 g), (RS)-1-ethyl-7-fluoro-8-[3-(3-fluorophenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid (2 g) is obtained in the form of a yellow solid, m.p. 284° C.

reactant | 1-ethyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.5 g | C(C)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)F)=O)C(=O)O | C15H10F2N2O3
reactant | (RS)-2-(3-fluorophenyl)piperazine | 1.98 g | FC=1C=C(C=CC1)C1NCCNC1 | C10H13FN2
product | (RS)-1-ethyl-7-fluoro-8-[3-(3-fluorophenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid | 2 g | C(C)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(NCC3)C3=CC(=CC=C3)F)=O)C(=O)O | C25H22F2N4O3
